US07737149B2
(Trimethylsilyl)diazomethane, 2M in hexanes (4.19 ml, 8.38 mmol) was added dropwise to 2-(1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl)pyrimidine-5-carboxylic acid (1.28 g, 4.19 mmol) in toluene (12 ml) and methanol (3.00 ml) at 25° C. over a period of 2 mins under nitrogen. The resulting solution was stirred at ambient temperature for 2 hours. The reaction mixture was quenched with the dropwise addition of acetic acid until bubbling ceased, then the reaction mixture was diluted with EtOAc (100 mL) and water (100 mL). The organic layer was removed and the aqueous further extracted with EtOAc (2×50 mL). The combined organics were washed with sodium hydrogen carbonate solution (100 mL), water (100 mL), brine (100 mL) and dried over MgSO4, filtered and evaporated to afford methyl 2-(1-( tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl)pyrimidine-5-carboxylate (1.182 g, 88%) as a yellow solid. This was used directly with no further purification.

reactant | (Trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 2-(1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl)pyrimidine-5-carboxylic acid | 4.19 mmol, 1.28 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC=C(C=N1)C(=O)O | C15H19N3O4
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 3.00 ml | CO | CH4O
product | methyl 2-(1-( tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl)pyrimidine-5-carboxylate | 1.182 g, 88% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC=C(C=N1)C(=O)OC | C16H21N3O4
